US08871753B2
Step C: tert-Butyl {3-[({3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}sulfonyl)amino]phenyl}carbamate
To a solution of tert-butyl (3-{[(3-aminophenyl)sulfonyl]amino}phenyl)carbamate (0.30 g, 0.82 mmol) and 2,4,5-trichloropyrimidine (0.14 g, 0.75 mmol) in DMF (2 mL) was added potassium carbonate (0.12 g, 0.90 mmol). The resulting mixture was stirred overnight at room temperature. The reaction was quenched with sat'd NH4Cl and water. EtOAc was added and the layers separated. The aqueous phase was extracted with EtOAc. The combined organics were washed with water and brine then dried (MgSO4), filtered, and concentrated. The resulted crude mixture was purified by column chromatography to give the desired product (70 mg, 18%). LCMS for C21H21Cl2N5O4S (M-tBu+H)+: m/z=454.0, 455.9. 1H NMR (500 MHz, DMSO-d6): δ 9.28 (s, 1H), 8.41 (s, 1H), 8.12 (br, 1H), 7.85 (dt, J=7.4, 1.8 Hz, 1H), 7.55 (br, 1H), 7.57 (dt, J=7.9, 1.8 Hz, 1H), 7.39 (s, 1H), 7.04 (m, 1H), 7.02 (dt, J=8.2, 2.0 Hz, 1H), 6.71 (dt, J=7.5, 1.8 Hz, 1H), 1.43 (s, 9H).

reactant | tert-butyl (3-{[(3-aminophenyl)sulfonyl]amino}phenyl)carbamate | 0.82 mmol, 0.30 g | NC=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C17H21N3O4S
reactant | 2,4,5-trichloropyrimidine | 0.75 mmol, 0.14 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 0.90 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl {3-[({3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}sulfonyl)amino]phenyl}carbamate | 70 mg, 18% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O)Cl | C21H21Cl2N5O4S
